US06008245
A solution of 20.0 g (71 mmol) of 6-benzyloxy-2,2-dimethylchroman-4-one and 2.94 g (78 mmol) of sodium borohydride in 100 ml of methanol and 300 ml of ethanol was stirred at RT for 3 h. The reaction mixture was then poured into 1300 ml of ice-water, and the precipitate was filtered off with suction and dried under reduced pressure. This procedure gave 19.3 g of 6-benzyloxy-2,2-dimethylchroman-4-ol, m.p. 83-84° C.

reactant | 6-benzyloxy-2,2-dimethylchroman-4-one | 71 mmol, 20.0 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)=O | C18H18O3
reactant | sodium borohydride | 78 mmol, 2.94 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-benzyloxy-2,2-dimethylchroman-4-ol | 19.3 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)O | C18H20O3
